US07371751B2
2-[(2-Chloro-benzoyl)-(4-trifluoromethoxyphenyl)-amino]-thiazole-4-carboxylic acid
A mixture of 2.0 g (6.6 mmol) 2-(4-(trifluoromethoxy)phenylamino)-thiazole-4-carboxylic acid, 2.87 g (16.4 mmol) 2-chlorobenzoyl chloride and 0.92 g (6.6 mmol) potassium carbonate in 50 mL THF was stirred at 50° C. for 48 h. After evaporation of the volatiles the residue was partitioned between water and ethyl acetate. Organic phases were pooled, dried with MgSO4 and the solvent was removed in vacuo. Crystallisation from n-heptane yielded 2.1 g (72%) of the title compound.

reactant | 2-(4-(trifluoromethoxy)phenylamino)-thiazole-4-carboxylic acid | 6.6 mmol, 2.0 g | FC(OC1=CC=C(C=C1)NC=1SC=C(N1)C(=O)O)(F)F | C11H7F3N2O3S
reactant | 2-chlorobenzoyl chloride | 16.4 mmol, 2.87 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | potassium carbonate | 6.6 mmol, 0.92 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-[(2-Chloro-benzoyl)-(4-trifluoromethoxyphenyl)-amino]-thiazole-4-carboxylic acid | 2.1 g, 72% | ClC1=C(C(=O)N(C=2SC=C(N2)C(=O)O)C2=CC=C(C=C2)OC(F)(F)F)C=CC=C1 | C18H10ClF3N2O4S
